US08309580B2
(4) cyclohexyl[5-(1,3-dioxolan-2-yl)-2-ethylthiophen-3-yl]methanol
To a solution of 5-(1,3-dioxolan-2-yl)-2-ethylthiophene-3-carbaldehyde (6.36 g) synthesized above in tetrahydrofuran (130 mL) was added dropwise 1.0M cyclohexylmagnesium bromide-tetrahydrofuran solution (40 mL) at 0° C., and the mixture was stirred for 1.5 hr under an argon atmosphere. Water was added to quench the reaction, tetrahydrofuran was evaporated using evaporator, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane) to give the title compound (6.30 g, 71%) as a pale-yellow oil.

reactant | 5-(1,3-dioxolan-2-yl)-2-ethylthiophene-3-carbaldehyde | 6.36 g | O1C(OCC1)C1=CC(=C(S1)CC)C=O | C10H12O3S
reactant | cyclohexylmagnesium bromide tetrahydrofuran | 1.0M, 40 mL | C1(CCCCC1)[Mg]Br.O1CCCC1
reactant | Water | O | H2O
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | cyclohexyl[5-(1,3-dioxolan-2-yl)-2-ethylthiophen-3-yl]methanol | 6.30 g, 71% | C1(CCCCC1)C(O)C1=C(SC(=C1)C1OCCO1)CC | C16H24O3S
